US06787536B2
4-[5-(4-Chlorophenyl) pyridin-2-yl]piperazine-dihydro chloride
Prepared according to the method for the preparation of 5-(4-fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride, from 4-[5-(4-chlorophenyl)pyridin-2-yl]piperazine-1-carboxylic acid tert-butyl ester (0.570 g), to furnish the title compound as an off-white solid (0.478 g, 91%).

reactant | 5-(4-fluorophenyl)-2-piperazin-1-ylpyrimidine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCNCC1
reactant | 4-[5-(4-chlorophenyl)pyridin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.570 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C20H24ClN3O2
product | 4-[5-(4-Chlorophenyl) pyridin-2-yl]piperazine-dihydro chloride | 0.478 g, 91% | Cl.Cl.ClC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCNCC1 | InChI=1S/C15H16ClN3.2ClH/c16-14-4-1-12(2-5-14)13-3-6-15(18-11-13)19-9-7-17-8-10-19;;/h1-6,11,17H,7-10H2;2*1H
